US05998477
5-fluoro-2-methyl-3-indenyl-acetic acid (15 g, 0.072 mol), 3,4,5-trimethoxybenzaldehyde (17.85 g, 0.091 mol) and sodium methoxide (13.0 g, 0.24 mol) are heated in methanol (200 ml) at 60° C. under nitrogen with stirring for 6 hours. After cooling, the reaction mixture is poured into 750 ml of ice-water, and is acidified with 2.5 N hydrochloric acid. The collected solid is triturated with a little ether to produce (Z)-5-fluoro-2-methyl-1-(3,4,5-trimethoxybenzylidene)-3-indenyl-acetic acid (m.p. 166-169° C.). (R=H, R1 =H, R2 =F, R3 =H, R4 =H, R5 =OCH3, R6 =OCH3, R7 =OCH3, R8 =CH3, o=1, M=OH).

reactant | 5-fluoro-2-methyl-3-indenyl-acetic acid | 0.072 mol, 15 g | FC=1C=C2C(=C(CC2=CC1)C)CC(=O)O | C12H11FO2
reactant | 3,4,5-trimethoxybenzaldehyde | 0.091 mol, 17.85 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | sodium methoxide | 0.24 mol, 13.0 g | C[O-].[Na+]
reactant | hydrochloric acid | 2.5 N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | (Z)-5-fluoro-2-methyl-1-(3,4,5-trimethoxybenzylidene)-3-indenyl-acetic acid | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC(=C(C(=C1)OC)OC)OC)C)CC(=O)O | C22H21FO5
